US04268510
3,4-Dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carboxamide (prepared as described in Example 10--1.0 g.) and thionyl chloride (20 ml.) were heated together under reflux for 1 hour, cooled to room temperature, and drowned into ice-water (200 ml.). After stirring for 1 hour, the white suspension so formed was filtered off, washed with water, dried at 60° C. and extracted with toluene (3×200 ml.). The toluene extracts were combined, and the solvent was evaporated to give 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carbonitrile, m.p. 212°-214° C.

reactant | 3,4-Dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carboxamide | 10--1.0 g | O=C1NC(OC2=C1C=C(C=C2)C(=O)N)C(Cl)(Cl)Cl | C10H7Cl3N2O3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carbonitrile | O=C1NC(OC2=C1C=C(C=C2)C#N)C(Cl)(Cl)Cl | C10H5Cl3N2O2
